US08211901B2
Preparation of 4-(aminomethyl)-N-(2-amino-4-trifluoromethylphenyl)benzamide
The title compound (195 mg, 63% yield) was prepared as a grey solid from 4-cyano-benzoic acid (294 mg, 2 mmol) and 4-trifluoromethyl-o-phenylenediamine (422 mg, 2.4 mmol) by an analogous procedure to that described in example 8. LC-MS (m/z) 310 (M+1).

reactant | 4-cyano-benzoic acid | 2 mmol, 294 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | 4-trifluoromethyl-o-phenylenediamine | 2.4 mmol, 422 mg | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
product | 4-(aminomethyl)-N-(2-amino-4-trifluoromethylphenyl)benzamide | 195 mg, 63% yield | NCC1=CC=C(C(=O)NC2=C(C=C(C=C2)C(F)(F)F)N)C=C1 | C15H14F3N3O
